US06821967B2
b. 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
A solution of 2.3 g (4.32 mmol) of tert. butyl 4-{4-[9-(2,2,2-trifluoro-ethylcarbamoyl)-9H-fluoren-9-yl]-butyl}-piperazine-1-carboxylate and 6 ml of trifluoroacetic acid in 50 ml of dichloromethane is stirred for 14 hours at ambient temperature. Dilute sodium hydroxide solution is added cautiously, so that the solution has a pH of 9. The precipitate formed is filtered off, washed with water and dried.

reactant | tert. butyl 4-{4-[9-(2,2,2-trifluoro-ethylcarbamoyl)-9H-fluoren-9-yl]-butyl}-piperazine-1-carboxylate | 4.32 mmol, 2.3 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C29H36F3N3O3
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCNCC1)(F)F | C24H28F3N3O
